US07482344B2
3,6-Difluoro-thioxanthen-9-one
Mix 4-fluoro-2-(3-fluoro-phenylsulfanyl)-benzonitrile (15.7 g, 63 mmol) and polyphosphoric acid (60 g), heat to 200° C. for 10 days. Dilute with H2O (300 mL) and ethyl acetate (700 mL), and filter through a pad of celite. Separate layers formed in the filtrate, and extract aqueous with two 150 mL portions of ethyl acetate. Combine organics, dry (MgSO4), filter, and concentrate to a brown solid. Purify on silica gel (0-10% ethyl acetae/hexanes)to afford 430 mg (3%) of the title compound as a yellow solid. MS [EI] 248; HPLC shows 92% purity; 1H-NMR consistent with structure. 1H-NMR (CDCl3) δ 8.67 (dd, 2H, J=9.0, 5.9 Hz), 7.26 (m, 4H).

reactant | 4-fluoro-2-(3-fluoro-phenylsulfanyl)-benzonitrile | 63 mmol, 15.7 g | FC1=CC(=C(C#N)C=C1)SC1=CC(=CC=C1)F | C13H7F2NS
reactant | H2O | 300 mL | O | H2O
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
product | 3,6-Difluoro-thioxanthen-9-one | 430 mg, 3% | FC=1C=CC=2C(C3=CC=C(C=C3SC2C1)F)=O | C13H6F2OS
